US08710046B2
To a solution of methyl indole-4-carboxylate (10.0 g, 57.1 mmol) was added sodium hydride (60% dispersion in mineral oil (5.7 g, 142.8 mmol) in DMF (200 mL) at 0° C. The mixture was stirred under an atmosphere of nitrogen for 15 min. To this were added 4-methoxybenzyl bromide (10.7 g, 68.5 mmol) and tetrabuylammonium iodide (3.2 g, 8.6 mmol). The resulting mixture continued to stir for 10 min and then warmed to room temperature and stirred for 2.5 h. The mixture was quenched with sat. aqueous ammonium chloride (200 mL) and extracted with diethyl ether (3×500 mL). The combined organic layers were washed with brine (3×200 mL), dried (Na2SO4), filtered, and concentrated in vacuo. The crude material was purified by column chromatography (silica gel, 5 to 20% ethyl acetate in hexanes), providing methyl 1-(4-methoxybenzyl)-1H-indole-4-carboxylate (16.6 g, 98%) as a pale yellow oil: 1H NMR δ (500 MHz, CDCl3) 7.90 (d, J=10.0 Hz, 1H), 7.49 (d, J=1.0 Hz, 1H), 7.26-7.25 (m, 1H), 7.20 (t, J=10.0 Hz, 1H), 7.16-7.15 (m, 1H), 7.04 (d, J=10.0 Hz, 2H), 6.82 (d, J=10.0 Hz, 2H), 5.29 (s, 2H), 3.98 (s, 3H), 3.77 (s, 3H); MS (ESI+) m/z 296 (M+H).

reactant | methyl indole-4-carboxylate | 57.1 mmol, 10.0 g | N1C=CC=2C(=CC=CC12)C(=O)OC | C10H9NO2
reactant | sodium hydride | [H-].[Na+]
reactant | 4-methoxybenzyl bromide | 68.5 mmol, 10.7 g | COC1=CC=C(CBr)C=C1 | C8H9BrO
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
catalyst | tetrabuylammonium iodide | 8.6 mmol, 3.2 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | methyl 1-(4-methoxybenzyl)-1H-indole-4-carboxylate | 16.6 g, 98% | COC1=CC=C(CN2C=CC=3C(=CC=CC23)C(=O)OC)C=C1 | C18H17NO3
